US04261990
The starting material is prepared as follows. The mixture of 8.28 g of diphenylmethanol, 5.05 g of 3-hydroxypiperidine and 9.5 g of p-toluene sulfonic acid monohydrate is heated to 160°-165° while evacuating the evolving water rapidly. After the water emission ceases, the mixture is heated to said temperature for 3 hours. It is allowed to cool to room temperature and is partitioned between 2 N aqueous sodium hydroxide and diethyl ether. The organic solution is separated, washed with water and saturated aqueous sodium chloride, dried and evaporated. The residue is taken up in diethyl ether, the solution extracted with 0.1 N hydrochloric acid, the extract washed with diethyl ether and made basic with saturated aqueous ammonia. It is re-extracted with diethyl ether, the extract dried and evaporated, to yield the 3-diphenylmethoxypiperidine as an oil.

reactant | diphenylmethanol | 8.28 g | C1(=CC=CC=C1)C(O)C1=CC=CC=C1 | C13H12O
reactant | 3-hydroxypiperidine | 5.05 g | OC1CNCCC1 | C5H11NO
reactant | p-toluene sulfonic acid monohydrate | 9.5 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
product | 3-diphenylmethoxypiperidine | C1(=CC=CC=C1)C(OC1CNCCC1)C1=CC=CC=C1 | C18H21NO
